US07858800B2
4) Production of 3-phenyl-1H-[1,2,3]triazole-4-carbonitrile
3-phenyl-5-trimethylsilanyl-1H-[1,2,3]triazole-2-carboxylic acid amide (550 mg) which is the compound prepared in the above 3) was dissolved in 2.0 ml of pyridine, 801 mg of 4-methylbenzenesulfonic acid chloride was added thereto and the mixture was stirred at 130° C. for one day. Water was added to the reaction solution, the mixture was extracted with ethyl acetate and the ethyl acetate layer washed with a saturated saline solution and dried over sodium sulfate. After the solvent was evaporated in vacuo and the residue was separated and purified by a thin-layer chromatography (hexane/ethyl acetate=5/1) to give 113 mg of the title compound as a white solid.

reactant | 3-phenyl-5-trimethylsilanyl-1H-[1,2,3]triazole-2-carboxylic acid amide | 550 mg | C1(=CC=CC=C1)N1N(NC(=C1)[Si](C)(C)C)C(=O)N | C12H18N4OSi
reactant | 4-methylbenzenesulfonic acid chloride | 801 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Water | O | H2O
reactant | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 3-phenyl-1H-[1,2,3]triazole-4-carbonitrile | 113 mg | C1(=CC=CC=C1)N1NNC=C1C#N | C9H8N4
